US07750154B2
N-Cyclopropyl-3-(6-hydroxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide (0.621 g), 1-bromo-2-chloroethane (0.772 ml) and potassium carbonate (2.56 g) were stirred in DMF (25 ml) at 50° C. for 24 hours. The reaction mixture was diluted with ethyl acetate and washed with water (5×), brine (2×), dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting with 70-80% ethyl acetate/hexane gave 3-[6-(2-chloroethoxy)-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide (0.46 g) as a white solid; NMR Spectrum: DMSOd6) 0.55 (m, 2H), 0.70 (m, 2H), 2.12 (s, 3H), 2.35 (m, 1H), 3.98 (t, 2H), 4.41 (t, 2H), 7.52 (d, 1H), 7.55 (d, 1H), 7.61 (s, 1H), 7.75 (d, 1H), 7.85 (s, 1H), 7.91 (d, 1H), 8.20 (s, 1H), 8.44 (d, 1H); Mass Spectrum: M+H+ 398.

reactant | N-Cyclopropyl-3-(6-hydroxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide | 0.621 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)O)=O | C19H17N3O3
reactant | 1-bromo-2-chloroethane | 0.772 ml | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 2.56 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[6-(2-chloroethoxy)-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide | 0.46 g | ClCCOC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2CC2)C=CC1C)=O | C21H20ClN3O3
